US08431575B2
4-{4-[3-butyl-6-(1-methyl-piperidin-4-yloxy)-pyridazin-4-yl]-phenoxymethyl}-cyclohexanecarboxylic acid dimethylamide dihydrochloride
To a solution of 4-{4-[3-butyl-6-(1-methyl-piperidin-4-yloxy)-pyridazin-4-yl]-phenoxymethyl}-cyclohexanecarboxylic acid (0.2 mmol, 97 mg) in DMF (1 mL) was added dimethylamine hydrochloride (0.3 mmol, 25 mg), HBTU (0.4 mmol, 152 mg), DIEA (0.4 mmol, 70 μL). The mixture was stirred at 100° C. for 2 hours. The mixture was then diluted with water/EtOAc and neutralized with acetic acid. The organic layers were combined, dried, and condensed in vacuo and the residue was purified by silica gel chromatography (DCM to DCM+10% in MeOH) to give a colorless sticky solid, which was dissolved in DCM (1 mL), 2N HCl in ether (1 mL) was added, kept at room temperature for 10 min, condensed, triturated with hexanes to provide the title compound (89 mg). LCMS: m/z 510 [M+1]. 1H NMR (400 MHz, CD3OD): δ 7.64 and 7.76 (1H, s), 7.45-7.51 (2H, m), 7.13-7.17 (2H, m), 5.37-5.54 (1H, m), 4.30 (2H, d), 3.35-3.69 (3H, m), 3.08-3.30 (4H, m), 2.94 (3H, s), 2.81 (6H, s), 2.21-2.74 (5H, m), 1.86-2.98 (2H, m), 1.25-1.54 (10H, m), 0.82 (3H, t).

reactant | 4-{4-[3-butyl-6-(1-methyl-piperidin-4-yloxy)-pyridazin-4-yl]-phenoxymethyl}-cyclohexanecarboxylic acid | 0.2 mmol, 97 mg | C(CCC)C=1N=NC(=CC1C1=CC=C(OCC2CCC(CC2)C(=O)O)C=C1)OC1CCN(CC1)C | C28H39N3O4
reactant | dimethylamine hydrochloride | 0.3 mmol, 25 mg | Cl.CNC
reactant | HBTU | 0.4 mmol, 152 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.4 mmol, 70 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | HCl | 2N | Cl | ClH
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water EtOAc | O.CCOC(=O)C
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | ether | 1 mL | CCOCC | C4H10O
product | 4-{4-[3-butyl-6-(1-methyl-piperidin-4-yloxy)-pyridazin-4-yl]-phenoxymethyl}-cyclohexanecarboxylic acid dimethylamide dihydrochloride | 89 mg | Cl.Cl.CN(C(=O)C1CCC(CC1)COC1=CC=C(C=C1)C1=C(N=NC(=C1)OC1CCN(CC1)C)CCCC)C | InChI=1S/C30H44N4O3.2ClH/c1-5-6-7-28-27(20-29(32-31-28)37-26-16-18-34(4)19-17-26)23-12-14-25(15-13-23)36-21-22-8-10-24(11-9-22)30(35)33(2)3;;/h12-15,20,22,24,26H,5-11,16-19,21H2,1-4H3;2*1H
